US06399824B1
N-{4-[Methyl-(1-methylpyrrolidin-3-yl)sulfamoyl]phenyl}acetamide
4-Acetylaminobenzenesulfonyl chloride and methyl-(1-methylpyrrolidin-3-yl)amine are reacted according to the method described in Example 10, intermediate 2. The title compound obtained in the form of a slightly yellowish solid can be reacted further without further purification. (MS-ES+: 312.1; LCMS Rt=0.698 min)

reactant | 4-Acetylaminobenzenesulfonyl chloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | methyl-(1-methylpyrrolidin-3-yl)amine | CNC1CN(CC1)C | C6H14N2
product | N-{4-[Methyl-(1-methylpyrrolidin-3-yl)sulfamoyl]phenyl}acetamide | CN(S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)C1CN(CC1)C | C14H21N3O3S
